US09034866B2
3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was prepared similarly to General Procedure G with slight modifications. 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was reacted with 3-methyl-1-butyne-3-ol to afford 5.5 mg (6.6% yield). M+1=419.0.

reactant | 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NN3)C3CC3)C1 | C17H15BrN6O2
reactant | 3-methyl-1-butyne-3-ol | CC(C#C)(C)O | C5H8O
product | 3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 6.6% yield | C1(CC1)C1=NNC(=N1)C1=C(N=C2N1CCOC1=C2C=C(C=C1)C#CC(C)(C)O)C(=O)N | C22H22N6O3
